US04053600
8,9-Dimethoxy-1,2,4-triazolo-[1,5-c]quinazoline-5-one
500 mg of 5-chloro-8,9-Dimethoxy-1,2,4-triazolo-[4,3-c]quinazoline is refluxed with 50 ml glacial acetic acid for 1 hour. The mixture is then evaporated in vacuo to dryness. The residue is treated with water/methylene chloride/diethyl ether and the solid material which is, 8,9-Dimethoxy-1,2,4-triazolo-[1,5-c]quinazoline-5-one is filtered off, washed well with water, then diethyl ether and dried, m.p. 320°-325° C.

reactant | 5-chloro-8,9-Dimethoxy-1,2,4-triazolo-[4,3-c]quinazoline | 500 mg | ClC1=NC=2C=C(C(=CC2C=2N1C=NN2)OC)OC | C11H9ClN4O2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 8,9-Dimethoxy-1,2,4-triazolo-[1,5-c]quinazoline-5-one | COC=1C(=CC2=C3N(C(N=C2C1)=O)NC=N3)OC | C11H10N4O3
